US06624160B2
N-(4-chlorobenzyl)-6-iodo-1-methyl-4-oxo-1,4-dihydro-3-cinnolinecarboxamide
Iodomethane (0.028 mL) is added to a suspension of N-(4-chlorobenzyl)-4-hydroxy-6-iodo-3-cinnolinecarboxamide; (Prep. 4, 0.16 g) and K2CO3 (0.20 g,) in 6 mL anhydrous DMF. The reaction is heated at 90° C. for 1 h. The reaction is cooled to room temperature and poured into 75 mL H2O. The resulting yellow solid is filtered and dried. The solid is dissolved in CH2Cl2 and adsorbed onto silica. Purification by chromatography (CH2Cl2 (2L), 0.5% MeOH/CH2Cl2 (2L), 0.75% MeOH/CH2Cl2 (1L), 1% MeOH/CH2Cl2 (1L), 1.5% MeOH/CH2Cl2 (1L), 3.5% MeOH/CH2Cl2 (1L), 10% MeOH/CH2Cl2 (1L)) affords the product as an off-white solid (0.062 g, 39%). Physical characteristics are as follows: m.p. 194-195° C.; 1H NMR (300 MHz, DMSO-d6) δ9.86, 8.52, 8.24, 7.76, 7.40, 7.38, 4.55, 4.22; IR (drift) 1671, 1601, 1589, 1549, 1544, 1490, 1463, 1412, 1320, 1278, 1180, 819, 808, 723, 666 cm−1; MS (ESI) m/z 453.7 (M+H)+, 452.8 (M−H)−; Anal. Calcd for C17H13ClIN3O2: C, 45.01; H, 2.89; N, 9.26; Found: C, 44.63; H, 2.98; N, 8.91.

reactant | Iodomethane | 0.028 mL | IC | CH3I
reactant | N-(4-chlorobenzyl)-4-hydroxy-6-iodo-3-cinnolinecarboxamide | ClC1=CC=C(CNC(=O)C=2N=NC3=CC=C(C=C3C2O)I)C=C1 | C16H11ClIN3O2
reactant | K2CO3 | 0.20 g | C(=O)([O-])[O-].[K+].[K+]
reactant | H2O | 75 mL | O | H2O
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | N-(4-chlorobenzyl)-6-iodo-1-methyl-4-oxo-1,4-dihydro-3-cinnolinecarboxamide | 0.062 g, 39% | ClC1=CC=C(CNC(=O)C2=NN(C3=CC=C(C=C3C2=O)I)C)C=C1 | C17H13ClIN3O2
